US04469871
The process according to claim 4 where 2-ethoxy-1-(4-pyridinyl)ethenyl methyl ketone is reacted with cyanoacetamide in the presence of at least a molar equivalent quantity of sodium hydroxide per mole of cyanoacetamide in methanol and the reaction mixture is neutralized to produce 1,2-dihydro-6-methyl-2-oxo-5-(4-pyridinyl)nicotinonitrile.

reactant | 2-ethoxy-1-(4-pyridinyl)ethenyl methyl ketone | CC(=O)C(=COCC)C1=CC=NC=C1 | C11H13NO2
reactant | cyanoacetamide | C(#N)CC(=O)N | C3H4N2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 1,2-dihydro-6-methyl-2-oxo-5-(4-pyridinyl)nicotinonitrile | CC=1NC(C(C#N)=CC1C1=CC=NC=C1)=O | C12H9N3O
